US06617339B1
3-(3-Fluoro-4-(4-cyano-imidazol-1-yl)phenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one
3-(3-Fluoro-4-(4-hydroximinomethyl-imidazol-1-yl)phenyl)-5(R)-(isoxazol-3-yloxymethyl)-oxazolidin-2-one (360 mg, 0.93 mmol) and acetic anhydride (3 ml) were heated under nitrogen at reflux for 2 hours. After cooling and pouring onto ice, the mixture was extracted into dichloromethane (3×15 ml). dried (magnesium sulfate) and evaporated. The residue was purified by chromatography on a 10 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 2.5% MeOH in dichloromethane, to give the desired compound (135 mg).

reactant | 3-(3-Fluoro-4-(4-hydroximinomethyl-imidazol-1-yl)phenyl)-5(R)-(isoxazol-3-yloxymethyl)-oxazolidin-2-one | 0.93 mmol, 360 mg | FC=1C=C(C=CC1N1C=NC(=C1)C=NO)N1C(O[C@H](C1)COC1=NOC=C1)=O | C17H14FN5O5
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(3-Fluoro-4-(4-cyano-imidazol-1-yl)phenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 135 mg | FC=1C=C(C=CC1N1C=NC(=C1)C#N)N1C(O[C@H](C1)COC1=NOC=C1)=O | C17H12FN5O4
